US06818774B2
b) 2-[6 (4-Fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-2-methyl-propionic acid
A mixture of the 2-[6-(4-fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-2-methyl-propionic acid ethyl ester (220 mg, 0.571 mmol) and lithium hydroxide (274 mg, 11.41 mmol) in water and dioxane (1:1 v:v, 5 mL) was stirred at 50° C. overnight. The dioxane was evaporated and the mixture acidified to pH 3-4 with 0.1 N HCl. After extraction with ethyl acetate, drying of the organic layer with magnesium sulfate, filtration and evaporation a white solid was obtained (196 g, 96%). MS: m/e 356.1 (M−H+).

reactant | 2-[6-(4-fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-2-methyl-propionic acid ethyl ester | 0.571 mmol, 220 mg | C(C)OC(C(C)(C)N1C(C2=CC=C(C=C2CC1)OCC1=CC=C(C=C1)F)=O)=O | C22H24FNO4
reactant | lithium hydroxide | 11.41 mmol, 274 mg | [OH-].[Li+]
solvent | water | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-[6 (4-Fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-2-methyl-propionic acid | FC1=CC=C(COC=2C=C3CCN(C(C3=CC2)=O)C(C(=O)O)(C)C)C=C1 | C20H20FNO4
